US05317023
N-(5-Amino-4-pyrimidinyl)pentanamide
A mixture of 4,5-diaminopyrimidine (2.77 g) and valeric anhydride (18.84 g) were refluxed under nitrogen for 4 h. The mixture was poured into 2N sodium hydroxide solution (200 ml) and this was stirred at 20° C. overnight. The mixture was extracted with ethyl acetate (8×200 ml) and the combined extracts were dried and concentrated in vacuo to give a white solid (3.74 g). This was triturated with cold ethyl acetate to give the title compound as a white solid (3.53 g).

reactant | 4,5-diaminopyrimidine | 2.77 g | NC1=NC=NC=C1N | C4H6N4
reactant | valeric anhydride | 18.84 g | C(CCCC)(=O)OC(CCCC)=O | C10H18O3
solvent | sodium hydroxide | 2N, 200 ml | [OH-].[Na+]
product | N-(5-Amino-4-pyrimidinyl)pentanamide | 3.74 g | NC=1C(=NC=NC1)NC(CCCC)=O | C9H14N4O
